US05677321
7-Methyl-6-nitrobenzothiazole
To a solution of 6-nitrobenzothiazole (1.4 g, 7.7 mmol) in 50 mL of THF was added 5.1 mL of MeMgBr (15.3 mmol) dropwise in 0.5 h period at 0° C. The reaction mixture was then stirred for additional 2 h. It was quenched by adding THF solution of 2,3-dichloro-5,6-dicyanobenzoquinone until the color of the solution turns to dark green. The reaction mixture was concentrated in vacuo to yield a dark solid which was subjected to column chromatography (CHCl3, neat) to provide 0.68 g (3.5 mmol, 46%) of the desired product.

reactant | 6-nitrobenzothiazole | 7.7 mmol, 1.4 g | [N+](=O)([O-])C1=CC2=C(N=CS2)C=C1 | C7H4N2O2S
reactant | MeMgBr | 15.3 mmol, 5.1 mL | C[Mg+].[Br-]
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 7-Methyl-6-nitrobenzothiazole | 3.5 mmol, 0.68 g, 46% | CC1=C(C=CC=2N=CSC21)[N+](=O)[O-] | C8H6N2O2S
